US05384330
21.0 g (0.42 mol) hydrazine hydrate is added dropwise with stirring under reflux to a suspension of 142.1 g (0.4 mol) 2-ethoxycarbonylamino-5-phthalimido-nitrobenzene in 700 ml 1,2-dimethoxyethane and the mixture is allowed to react for a further 2 hours. After cooling to room temperature, precipitated phthalyl hydrazide is filtered off and the dark red filtrate in the vacuum is evaporated to dryness. The remaining solid residue is recrystallized from about 150 ml toluene. 84.4 g 5-amino-2-ethoxycarbonylaminonitrobenzene are obtained as dark red crystals.

reactant | hydrazine hydrate | 0.42 mol, 21.0 g | O.NN
reactant | 2-ethoxycarbonylamino-5-phthalimido-nitrobenzene | 0.4 mol, 142.1 g | C(C)OC(=O)NC1=C(C=C(C=C1)N1C(C=2C(C1=O)=CC=CC2)=O)[N+](=O)[O-] | C17H13N3O6
solvent | 1,2-dimethoxyethane | 700 ml | COCCOC | C4H10O2
product | 5-amino-2-ethoxycarbonylaminonitrobenzene | 84.4 g | NC=1C=CC(=C(C1)[N+](=O)[O-])NC(=O)OCC | C9H11N3O4
